US09107916B2
B. 2-[5-(2,4-Difluorophenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared in 83% yield from 2-hydrazinylpyridine-4-carbonitrile hydrochloride salt (PREPARATION 3) and (2E)-1-(2,4-difluorophenyl)-3-(dimethylamino)prop-2-en-1-one according to the procedure for the preparation of Example 12, part B. 1H NMR (400 MHz, CDCl3): δ 6.51 (1H, d, J=1.6 Hz), 6.77-6.82 (1H, m), 6.92-6.97 (1H, m), 7.34-7.40 (2H, m), 7.80 (1H, d, J=2.0 Hz), 8.20 (1H, s), 8.27 (1H, dd, J=5.2, 1.2 Hz).

reactant | 2-hydrazinylpyridine-4-carbonitrile hydrochloride salt | Cl.N(N)C1=NC=CC(=C1)C#N
reactant | (2E)-1-(2,4-difluorophenyl)-3-(dimethylamino)prop-2-en-1-one | FC1=C(C=CC(=C1)F)C(\C=C\N(C)C)=O | C11H11F2NO
product | 2-[5-(2,4-Difluorophenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile | 83% yield | FC1=C(C=CC(=C1)F)C1=CC=NN1C1=NC=CC(=C1)C#N | C15H8F2N4
